US05068325
(Z)-2-Amino-6-(3-(2-oxo-indolin-4-yl)-2-propen-1-yl)-4,5,7,8-tetrahydro-6H-thiazolo[5,4-d]azepine
Prepared analogously to Example 12 by catalytic hydrogenation of 2-amino-6-(3-(2-oxo-indolin-4-yl)-2-propyn-1-yl)-4,5,7,8-tetrahydro-6H- thiazolo[5,4-d]azepine. 0.75 H2O using Lindlar catalyst (palladium on calcium carbonate, contaminated with lead) for 3 hours at ambient temperature in ethanol. Yield: 51% of theory, Melting point: 192°-195° C. (acetone/ether).

reactant | 2-amino-6-(3-(2-oxo-indolin-4-yl)-2-propyn-1-yl)-4,5,7,8-tetrahydro-6H- thiazolo[5,4-d]azepine | NC=1SC=2CCN(CCC2N1)CC#CC1=C2CC(NC2=CC=C1)=O | C18H18N4OS
reactant | H2O | O | H2O
reactant | acetone ether | CC(=O)C.CCOCC
catalyst | Lindlar catalyst | [Pd].CC(=O)[O-].CC(=O)[O-].[Pb+2]
solvent | ethanol | C(C)O | C2H6O
product | (Z)-2-Amino-6-(3-(2-oxo-indolin-4-yl)-2-propen-1-yl)-4,5,7,8-tetrahydro-6H-thiazolo[5,4-d]azepine | Yield: 51% | NC=1SC=2CCN(CCC2N1)C\C=C/C1=C2CC(NC2=CC=C1)=O | C18H20N4OS
